### PR TITLE
[Merged by Bors] - feat: Port Algebra.IsPrimePow

### PR DESCRIPTION
**Pull request by casavaca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/IsPrimePow.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
...
+  rw [isPrimePow_nat_iff] at hn⊢
+  rcases hn with ⟨p, k, hp, _hk, rfl⟩
+  obtain ⟨i, hik, rfl⟩ := (Nat.dvd_prime_pow hp).1 hm
+  refine' ⟨p, i, hp, _, rfl⟩
+  apply Nat.pos_of_ne_zero
+  rintro rfl
+  simp only [pow_zero, ne_eq] at hm₁
+#align is_prime_pow.dvd IsPrimePow.dvd
+
+theorem Nat.disjoint_divisors_filter_prime_pow {a b : ℕ} (hab : a.coprime b) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/IsPrimePow.lean:110]: Probably this is better as
```suggestion
theorem Nat.disjoint_divisors_filter_isPrimePow {a b : ℕ} (hab : a.coprime b) :
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Algebra/IsPrimePow.lean (hunk 1 above)
Comment (casavaca) [reply Mathlib/Algebra/IsPrimePow.lean]: Done.

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
